US06037356
2. [N,N'-Di(tert-butoxycarbonyl)] 2-aminoethoxy-N-methylguanidine
A mixture of [N,N'-di(tert-butoxycarbonyl)] 2-(benzyloxycarbonylamino)ethoxy-N-methylguanidine (700 mg, 1.5 mmol), as prepared in the preceding step, 10% Pd/C (70 mg) in methanol (20 mL) and chloroform (5 mL) was hydrogenated under hydrogen (balloon) for 1 h. The catalyst was removed by filtration through Celite, the filtrate was concentrated in vacuo. The residue was purified by flash chromatography (95:5 methylene chloride:methanol saturated with ammonia) to give the title compound as a colorless foam (250 mg, 50%). 1H-NMR (300 MHz, CDCl3) δ 4.14 (t, J=5.0 Hz, 2H), 3.09 (s, 3H), 3.06 (q, J=5.0 Hz, 2H), 1.50 (s, 9H), 1.46 (s, 9H).

reactant | [N,N'-di(tert-butoxycarbonyl)] 2-(benzyloxycarbonylamino)ethoxy-N-methylguanidine | 1.5 mmol, 700 mg | C(C)(C)(C)OC(=O)N(C(=NOCCNC(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)C | C22H34N4O7
solvent | methanol | 20 mL | CO | CH4O
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | [N,N'-Di(tert-butoxycarbonyl)] 2-aminoethoxy-N-methylguanidine | 250 mg, 50% | C(C)(C)(C)OC(=O)N(C(=NOCCN)NC(=O)OC(C)(C)C)C | C14H28N4O5
